US05484942
A solution of 15.4 g of 3-chloroperoxybenzoic acid (at 85%) in 400 cm3 of dichloromethane is added over 40 minutes to a solution, cooled to -3° C., of 25 g of (4aRS, 7aRS)-4,4-diphenylperhydrothiopyrano[2,3-c]pyrrole in 500 cm3 of dichloromethane and 100 cm3 of methanol. After stirring for one hour at -3° C., the reaction mixture is washed with 200 cm3 of a 10% aqueous solution of potassium hydrogen carbonate and again with 100 cm3 of this same solution, then dried over magnesium sulphate and concentrated to dryness at 40° C. under reduced pressure (2.7 kPa). The residue is crystallized from 50 cm3 of ethyl acetate, the crystals are taken up in 200 cm3 of dichloromethane, the solution obtained is washed with 75 cm3 of a 1N aqueous solution of sodium hydroxide and then dried over magnesium sulphate and concentrated to dryness. The residue is crystallized from 30 cm3 of ethyl acetate, the crystals are washed with ethyl acetate, drained and dried. 13.6 g of (1RS,4aRS,7aRS)-4,4-diphenylperhydrothiopyrano[2,3-c]-pyrrole 1-oxide are obtained in the form of white crystals; melting point 174° C.

reactant | 3-chloroperoxybenzoic acid | 15.4 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | (4aRS, 7aRS)-4,4-diphenylperhydrothiopyrano[2,3-c]pyrrole | 25 g | C1(=CC=CC=C1)C1(CCSC2CNCC21)C2=CC=CC=C2 | C19H21NS
solvent | dichloromethane | 400 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 500 cm3 | ClCCl | CH2Cl2
solvent | methanol | 100 cm3 | CO | CH4O
product | (1RS,4aRS,7aRS)-4,4-diphenylperhydrothiopyrano[2,3-c]-pyrrole 1-oxide | 13.6 g | C1(=CC=CC=C1)C1(CCS(C2CNCC21)=O)C2=CC=CC=C2 | C19H21NOS
